US06248740B1
Production of tert-butyl 2-(6-chloroimidazo[1,2-b]pyridazin-2-yl)-2-methylpropionate
0.863 g of 2-(6-chloroimidazo[1,2-b]pyridazin-2-yl)-2-methylpropionic acid was suspended in 10 ml of toluene; 2.6 ml of N,N-dimethylformamide di-tert-butylacetal was added, followed by stirring at 80° C. for 1 hour. After cooling, the mixture was diluted with ethyl acetate, washed with an aqueous solution of sodium hydrogen carbonate and dried with magnesium sulfate. After the dry product was concentrated under reduced pressure, ethyl ether was added to the residue; the crystal separated was collected and dried to yield 0.52 g of the title compound.

reactant | 2-(6-chloroimidazo[1,2-b]pyridazin-2-yl)-2-methylpropionic acid | 0.863 g | ClC=1C=CC=2N(N1)C=C(N2)C(C(=O)O)(C)C | C10H10ClN3O2
reactant | N,N-dimethylformamide di-tert-butylacetal | 2.6 ml | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 2-(6-chloroimidazo[1,2-b]pyridazin-2-yl)-2-methylpropionate | 0.52 g | ClC=1C=CC=2N(N1)C=C(N2)C(C(=O)OC(C)(C)C)(C)C | C14H18ClN3O2
